US06825188B2
a) Methyl (±)-8-[3-(tert-butoxycarbonylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A solution of 3-[(tert-butoxycarbonyl)amino]-1-propanol (0.14 g, 0.8 mmol) and diethyl azodicarboxylate (0.13 mL, 0.8 mmole) in anhydrous DMF (2 mL) was added dropwise to a solution of methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.10 g, 0.4 mmole) and triphenylphosphine (0.21 g, 0.8 mmol) in anhydrous DMF (1.4 mL) and dry THF (2 mL) at RT under argon. The resulting solution was stirred for 18 hr, then was concentrated under vacuum. Silica gel chromatography (1%-3% MeOH/CH2Cl2) gave the title compound (0.11 g): MS (ES) m/e 407.3 (M+H)+.

reactant | 3-[(tert-butoxycarbonyl)amino]-1-propanol | 0.8 mmol, 0.14 g | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
reactant | diethyl azodicarboxylate | 0.8 mmole, 0.13 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.4 mmole, 0.10 g | OC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C13H15NO4
reactant | triphenylphosphine | 0.8 mmol, 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Methyl (±)-8-[3-(tert-butoxycarbonylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.11 g | C(C)(C)(C)OC(=O)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C21H30N2O6
